US06262287B1
5-(1,1,3,3,3-Pentamethyl-disiloxanyl)-pentanoic Acid Phenethyl Ester
According to the same procedure, 11-(1,1,3,3,3-pentamethyl-disiloxanyl)-undecanoic acid phenethyl ester was prepared from undec-10-enoic acid phenethyl ester and pentamethyldisiloxane.

reactant | 11-(1,1,3,3,3-pentamethyl-disiloxanyl)-undecanoic acid phenethyl ester | C(CC1=CC=CC=C1)OC(CCCCCCCCCC[Si](O[Si](C)(C)C)(C)C)=O | C24H44O3Si2
reactant | undec-10-enoic acid phenethyl ester | C(CC1=CC=CC=C1)OC(CCCCCCCCC=C)=O | C19H28O2
reactant | pentamethyldisiloxane | C[SiH](O[Si](C)(C)C)C | C5H16OSi2
product | 5-(1,1,3,3,3-Pentamethyl-disiloxanyl)-pentanoic Acid Phenethyl Ester | C(CC1=CC=CC=C1)OC(CCCC[Si](O[Si](C)(C)C)(C)C)=O | C18H32O3Si2
